US08633173B2
204 c) 1-{3-[8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-4-methyl-piperazin-2-one was prepared from 2-chloro-8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine (100.0 mg, 0.3249 mmol) and 1-(3-amino-phenyl)-4-methyl-piperazin-2-one (75.0 mg, 0.365 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (27.0 mg, 0.0494 mmol) as the ligand in a manner analogous to Example 2d. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.91 (s, 1H), 8.89 (d, J=6.6 Hz, 1H), 8.44 (d, J=8.2 Hz, 2H), 8.08 (d, J=8.0 Hz, 2H), 7.99 (d, J=7.3 Hz, 1H), 7.86 (s, 1H), 7.51 (d, J=7.9 Hz, 1H), 7.31 (t, J=7.9 Hz, 1H), 7.19 (t, J=7.0 Hz, 1H), 6.85 (d, J=7.7 Hz, 1H), 3.68-3.63 (m, 2H), 3.29 (s, 3H), 3.13 (s, 2H), 2.77-2.72 (m, 2H), 2.31 (s, 3H). MP=234-236° C. MS=477 (MH)+.

reactant | 2-chloro-8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine | 0.3249 mmol, 100.0 mg | ClC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)S(=O)(=O)C)=N1 | C13H10ClN3O2S
reactant | 1-(3-amino-phenyl)-4-methyl-piperazin-2-one | 0.365 mmol, 75.0 mg | NC=1C=C(C=CC1)N1C(CN(CC1)C)=O | C11H15N3O
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0494 mmol, 27.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | 1-{3-[8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-4-methyl-piperazin-2-one | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC=2C=C(C=CC2)N2C(CN(CC2)C)=O | C24H24N6O3S
